US06919362B2
Dimethyl 2-(4-{[2-(2-oxo-1,3-benzothiazol-3(2H)-yl)ethyl]amino}benzylidene)malonate
The procedure is as in Step B of Example 37, starting from thiazolinone and with the replacement of dimethyl 2-{4-[2-chloroethoxy]benzylidene}malonate with dimethyl 2-{4-[(2-chloroethyl)amino]benzylidene}malonate.

reactant | thiazolinone | S1C(N=CC1)=O | C3H3NOS
reactant | dimethyl 2-{4-[(2-chloroethyl)amino]benzylidene}malonate | ClCCNC1=CC=C(C=C(C(=O)OC)C(=O)OC)C=C1 | C14H16ClNO4
product | Dimethyl 2-(4-{[2-(2-oxo-1,3-benzothiazol-3(2H)-yl)ethyl]amino}benzylidene)malonate | O=C1SC2=C(N1CCNC1=CC=C(C=C(C(=O)OC)C(=O)OC)C=C1)C=CC=C2 | C21H20N2O5S
